US07906521B2
4-fluoro-2-chloro-benzoic acid (10 g) was combined with sodium methoxide (393 mL, 4.37 M in methanol) and heated at 75 C for 46 h. The reaction was cooled to room temp and acidified with 1 N HCl. The mixture was extracted with EtOAc (3×). The combined extracts were then dried (MgSO4) and concentrated to give 8.5 g of 4-methoxy-2-chloro-benzoic acid as a white solid.

reactant | 4-fluoro-2-chloro-benzoic acid | 10 g | FC1=CC(=C(C(=O)O)C=C1)Cl | C7H4ClFO2
reactant | sodium methoxide | 4.37 M, 393 mL | C[O-].[Na+]
reactant | HCl | 1 N | Cl | ClH
product | 4-methoxy-2-chloro-benzoic acid | 8.5 g | COC1=CC(=C(C(=O)O)C=C1)Cl | C8H7ClO3
